US07585881B2
3-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]benzonitrile
N′-(chloroacetyl)-3-cyanobenzohydrazide (795 mg, 3.34 mmol) and P2O5 (4.7 g, 33.4 mmol) were added to DMF (6 ml) and toluene (4 ml). The reaction mixture was refluxed for 2 h. K2CO3 (aq., sat.) was added until pH was basic and the mixture was extracted with DCM. The combined organic layers were dried (Na2SO4) and purified with flash chromatography using 0 to 100% EA in hep. to give the title compound (209 mg, 29%). 1H NMR: 8.29 (m, 2 H), 7.82 (m, 1 H), 7.66 (t, 1 H), 4.78 (s, 2 H).

reactant | N′-(chloroacetyl)-3-cyanobenzohydrazide | 3.34 mmol, 795 mg | ClCC(=O)NNC(C1=CC(=CC=C1)C#N)=O | C10H8ClN3O2
reactant | P2O5 | 33.4 mmol, 4.7 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | DMF | 6 ml | CN(C)C=O | C3H7NO
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 4 ml | C1(=CC=CC=C1)C | C7H8
product | 3-[5-(chloromethyl)-1,3,4-oxadiazol-2-yl]benzonitrile | 209 mg, 29% | ClCC1=NN=C(O1)C=1C=C(C#N)C=CC1 | C10H6ClN3O
